US08557830B2
Step 1: 6-Iodo-9-(tetrahydro-2H-pyran-2-yl)-9H-purine
In a RB flask were placed 6-iodo-9H-purine (2680 mg, 10894 μmol), 3,4-dihydro-2(H)-pyran (2982 μl, 32682 μmol), and p-toluenesulfonic acid monohydrate (34.0 mg, 218 μmol) in EtOAc (150 mL) and heated to reflux for 2 hours. After cooling to RT, the reaction mixture was washed with NaHCO3 (aq., sat., 100 mL), then brine (100 mL). The organic solution was concentrated in vacuo. The residue was redissolved in a small amount of DCM and then put on a layer of silica gel in a funnel. The silica was rinsed with EtOAc/hexane (1:1). A light yellow solution (filtrate) was collected and concentrated to give a waxy product. This product was treated with hexanes to give the titled compound as an off white solid. MS Found: (ESI pos. ion) m/z 331 (M+H+).

reactant | 6-iodo-9H-purine | 10894 μmol, 2680 mg | IC1=C2N=CNC2=NC=N1 | C5H3IN4
reactant | p-toluenesulfonic acid monohydrate | 218 μmol, 34.0 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | EtOAc | 150 mL | CCOC(=O)C | C4H8O2
product | 6-Iodo-9-(tetrahydro-2H-pyran-2-yl)-9H-purine | IC1=C2N=CN(C2=NC=N1)C1OCCCC1 | C10H11IN4O
